US05364855
Isopropyl 5-cyano-1,4-dihydro-2,6-dimethyl-4-(3-phenylcinnolin-5-yl)pyridine-3-carboxylate
750 mg (3.2 mmol) of 3-phenyl-5-cinnolinecarboxaldehyde, 263 mg (3.2 mmol) of 3-aminocrotononitrile and 457 mg (3.2 mmol) of isopropyl acetoacetate are boiled under reflux for 2.5 days in 25 ml of ethanol. The mixture is concentrated and separated on a silica gel column using toluene/ethyl acetate mixtures. The desired fractions are collected and concentrated. The evaporation residue obtained is crystallised using ether and filtered off with suction. 320 mg of crystals of melting point 200°-202° C. are obtained.

reactant | 3-phenyl-5-cinnolinecarboxaldehyde | 3.2 mmol, 750 mg | C1(=CC=CC=C1)C=1N=NC=2C=CC=C(C2C1)C=O | C15H10N2O
reactant | 3-aminocrotononitrile | 3.2 mmol, 263 mg | N\C(=C/C#N)\C | C4H6N2
reactant | isopropyl acetoacetate | 3.2 mmol, 457 mg | C(CC(=O)C)(=O)OC(C)C | C7H12O3
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | Isopropyl 5-cyano-1,4-dihydro-2,6-dimethyl-4-(3-phenylcinnolin-5-yl)pyridine-3-carboxylate | 320 mg | C(#N)C=1C(C(=C(NC1C)C)C(=O)OC(C)C)C1=C2C=C(N=NC2=CC=C1)C1=CC=CC=C1 | C26H24N4O2
